US06815528B2
1-Benzoyl-2-(4-methoxybenzoyl)hydrazine:
Synthesis and isolation were same as 1-acetyl-2-benzoylhydrazine, using 1.5 g (11.2 mmol) of benzoylhydrazide, 1.9 g (11.1 mmol) of 4-methoxybenzoylchloride and 1.1 g of TEA. Yield was 2.9 g (97%). 1H NMR (200 MHz, d6-DMSO) δ 5.13 (s, 3H), 8.36 (d, 2H), 8.86 (m, 3H), 9.23 (d, 4H) 11.72 (d, 2H); MS (EI, m/e, relative intensity %) calcd for C15H14N2O3 270, found 270 (M+, 5.1); mp 201-202° C.

reactant | 1-acetyl-2-benzoylhydrazine | C(C)(=O)NNC(C1=CC=CC=C1)=O | C9H10N2O2
reactant | 4-methoxybenzoylchloride | 11.1 mmol, 1.9 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 1-Benzoyl-2-(4-methoxybenzoyl)hydrazine | C(C1=CC=CC=C1)(=O)NNC(C1=CC=C(C=C1)OC)=O | C15H14N2O3
